US08791114B2
3-Chloro-1-(3,4-dimethoxy-phenyl)-2,2-dimethyl-propan-1-one.
A 50 mL round bottom flask equipped with a stir bar was charged with veratrole (1.3 mL, 10 mmol) and 3-chloropivaloyl chloride (1.4 g, 10 mmol). To this mixture was added polyphosphoric acid (20 g). The mixture was heated at 70° C. for 2 h. [The progress of the reaction was followed by removing an aliquot for mini workup and NMR analysis.] The material was added to a mixture of ice water (100 mL)/EtOAc (100 mL) and stirred until the polyphosphoric acid had dissolved. The phases were separated and the EtOAc phase was washed with sat. NaHCO3 (100 mL), dried (Na2SO4) and the solvent was evaporated under reduced pressure. The material was used as is in the next step. Amount obtained: 2.4 g, 9.3 mmol, 93% yield. LC-MS (ESI) m/e 257 (M+H). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.51 (s, 6H) 3.83 (s, 2H) 3.93 (s, 3H) 3.95 (s, 3H) 6.87 (d, J=8.44 Hz, 1H) 7.37 (d, J=1.95 Hz, 1H) 7.48 (dd, J=8.42, 1.98 Hz, 1H). Step 2

reactant | veratrole | 10 mmol, 1.3 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | 3-chloropivaloyl chloride | 10 mmol, 1.4 g | ClCC(C(=O)Cl)(C)C | C5H8Cl2O
product | 3-Chloro-1-(3,4-dimethoxy-phenyl)-2,2-dimethyl-propan-1-one | 93% yield | ClCC(C(=O)C1=CC(=C(C=C1)OC)OC)(C)C | C13H17ClO3
